US05776940
In the manner of step (a) of Example 1, cyclopentanemethylamine (K. Jewers and J. McKenna, J. Chem. Soc. 1958, 2209-2217; 23.0 g, 0.158 mole) was reacted with phosgene to give 1,3-bis(cyclopentylmethyl)urea as white powder (14.41 g, 81%), m.p. 162°-164° C.;

reactant | cyclopentanemethylamine | 0.158 mole, 23.0 g | C1(CCCC1)CN | C6H13N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 1,3-bis(cyclopentylmethyl)urea | 14.41 g, 81% | C1(CCCC1)CNC(=O)NCC1CCCC1 | C13H24N2O
